US06586447B1
3C. 4-[1-Adamantan-1-ylmethyl-2-oxo-3,3-bis-(1-trityl-1H-imidazol-4-ylmethyl)-2,3-dihydro-1H-indol-6-yl]-benzonitrile
4-(1-Adamantan-1-ylmethyl-2-oxo-2,3-dihydro-1H-indol-6-yl)-benzonitrile (191 mg, 0.50 mmol) and 4-chloromethyl-1-trityl-1H-imidazole compound (449 mg, 1.25 mmol) were dissolved in 5 ml of anhydrous THF under an atmosphere of dry N2. To this solution was added 95% KHMDS (220 mg, 1.05 mmol) and the reaction mixture was subsequently stirred overnight. The reaction mixture was partitioned between DCM and saturated aqueous NaHCO3. The DCM layer was dried over Na2SO4, filtered and concentrated under vacuum to give a purple foam which was chromatographed on flash silica gel eluting with a gradient of CHCl3 to CHCl3/MeOH/NH4OH (98/2/0.01) to give 136 mg of the titled compound as a pink oil.

reactant | 4-(1-Adamantan-1-ylmethyl-2-oxo-2,3-dihydro-1H-indol-6-yl)-benzonitrile | 0.50 mmol, 191 mg | C12(CC3CC(CC(C1)C3)C2)CN2C(CC3=CC=C(C=C23)C2=CC=C(C#N)C=C2)=O | C26H26N2O
reactant | 4-chloromethyl-1-trityl-1H-imidazole | 1.25 mmol, 449 mg | ClCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
reactant | KHMDS | 1.05 mmol, 220 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-[1-Adamantan-1-ylmethyl-2-oxo-3,3-bis-(1-trityl-1H-imidazol-4-ylmethyl)-2,3-dihydro-1H-indol-6-yl]-benzonitrile | 136 mg | C12(CC3CC(CC(C1)C3)C2)CN2C(C(C3=CC=C(C=C23)C2=CC=C(C#N)C=C2)(CC=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C72H62N6O
